US05128344
Preparation of Sampangine (4).
Dimethylformamide dimethyl acetal (1.50 mL, 11.34 mmol, Aldrich) was added to a solution of cleistopholine, (1.95 g, 8.73 mmol) in dimethylformamide (5 mL). The mixture was then heated for 30 min by submerging

reactant | Dimethylformamide dimethyl acetal | 11.34 mmol, 1.50 mL | COC(N(C)C)OC | C5H13NO2
reactant | cleistopholine | 8.73 mmol, 1.95 g | CC=1C=CN=C2C1C(=O)C=3C=CC=CC3C2=O | C14H9NO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Sampangine | C=1C=CC2=C(C1)C3=C4C(=CC=N3)C=CN=C4C2=O | C15H8N2O
